US08183380B2
rac-Cyclopropanecarboxylic acid [2-(6-fluoro-indan-1-ylamino)-quinolin-6-yl]-amide
The title compound was prepared in accordance with the general method 14 described in example 119 from rac-N2-(6-fluoro-indan-1-yl)-quinoline-2,6-diamine and cyclopropanecarboxylic acid; MS: m/e=362.4 (M+H−).

reactant | rac-N2-(6-fluoro-indan-1-yl)-quinoline-2,6-diamine | FC1=CC=C2CCC(C2=C1)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
reactant | cyclopropanecarboxylic acid | C1(CC1)C(=O)O | C4H6O2
product | rac-Cyclopropanecarboxylic acid [2-(6-fluoro-indan-1-ylamino)-quinolin-6-yl]-amide | FC1=CC=C2CCC(C2=C1)NC1=NC2=CC=C(C=C2C=C1)NC(=O)C1CC1 | C22H20FN3O
